US06552188B2
Synthesis of N-[3-(3,4,5-trimethoxyphenyl)benzoyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (226 mg), 3-(3,4,5-trimethoxyphenyl)benzoic acid (173 mg) and 4-(dimethylamino)pyridine (61 mg) were dissolved in dichloromethane (3 mL), and triethylamine (2.1 μL) was added to the solution. Water-soluble carbodiimide hydrochloride (115 mg) was added to the mixture at 0° C., and the resultant mixture was stirred for 2 hours at 0° C. and overnight at room temperature. The reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, and the resultant mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=40:1) to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 226 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzoic acid | 173 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(C(=O)O)C=CC1 | C16H16O5
reactant | triethylamine | 2.1 μL | C(C)N(CC)CC | C6H15N
reactant | Water | 115 mg | O | H2O
catalyst | 4-(dimethylamino)pyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[3-(3,4,5-trimethoxyphenyl)benzoyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C=1C=C(C(=O)N2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C35H39N3O7
